US05919780
(7-Chloro-5H-dibenzo[b,e][1,4]diazepin-11-yl)pyridin-3-ylmethyl-amine
A solution of 0.41 g (1.57 mmol) of 7-chloro-5,10-dihydro-dibenzo[b,e][1,4]diazepin-11-thione (Hunziker F., et al., Helv. Chim. Acta, 50:1588 (1967)) in 10 mL 2-ethoxyethanol was treated with 0.32 mL (3.14 mmol) of 3-(aminomethyl)pyridine and heated at reflux for 22 hours. The solvent was removed under reduced pressure and the residue mixed with EtOAc and filtered to give 0.31 g of product. The filtrate was concentrated and chromatographed on silica gel, eluting with EtOAc to give an additional 0.16 g of product. The material was combined and recrystallized from EtOAc/hexane to give 0.3 g (56.6% yield) of the product as a pale yellow solid, mp 218-220° C. The structure was confirmed by NMR and mass spectroscopy. (m+H)+ =335.

reactant | 7-chloro-5,10-dihydro-dibenzo[b,e][1,4]diazepin-11-thione | 1.57 mmol, 0.41 g | ClC1=CC2=C(NC(C3=C(N2)C=CC=C3)=S)C=C1 | C13H9ClN2S
reactant | 3-(aminomethyl)pyridine | 3.14 mmol, 0.32 mL | NCC=1C=NC=CC1 | C6H8N2
solvent | 2-ethoxyethanol | 10 mL | C(C)OCCO | C4H10O2
product | (7-Chloro-5H-dibenzo[b,e][1,4]diazepin-11-yl)pyridin-3-ylmethyl-amine | 0.31 g | ClC1=CC2=C(N=C(C3=C(N2)C=CC=C3)NCC=3C=NC=CC3)C=C1 | C19H15ClN4
